US07705034B2
2-[(3,6-Dimethyl-1H-indol-2-yl)-phenyl-methyl]-3-hydroxy-4-methyl-4-phenyl-cyclobut-2-enone
Using general procedure C, 2-methyl-2-phenyl-cyclobutane-1,3-dione (Lit. 1) was reacted with benzaldehyde and 3,6-dimethyl-1H-indole (Lit. 4) to give the title compound as a colorless solid. MS: 406.4 ([M−H]−).

reactant | 2-methyl-2-phenyl-cyclobutane-1,3-dione | CC1(C(CC1=O)=O)C1=CC=CC=C1 | C11H10O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
reactant | 3,6-dimethyl-1H-indole | CC1=CNC2=CC(=CC=C12)C | C10H11N
product | 2-[(3,6-Dimethyl-1H-indol-2-yl)-phenyl-methyl]-3-hydroxy-4-methyl-4-phenyl-cyclobut-2-enone | CC1=C(NC2=CC(=CC=C12)C)C(C=1C(C(C1O)(C1=CC=CC=C1)C)=O)C1=CC=CC=C1 | C28H25NO2
